US07947691B2
3-Hydroxy-1-(1-phenyl-ethyl)-1H-benzo[4,5]furo[3,2-d]pyrimidine-2,4-dione
Following general procedure B2 and D1, 3-(2,4-Dimethoxy-benzyloxy)-1H-benzo[4,5]furo[3,2-d]pyrimidine-2,4-dione was alkylated with 1-bromoethyl)benzene and subsequently deprotected to provide the title compound as a white solid. 1H NMR (d6-DMSO, 300 MHz) δ 1.98 (d, J=7 Hz, 3H); 6.32 (br s, 1H); 7.25-7.43 (m, 7H); 7.59 (dd, J=8 Hz, 1H); 7.81 (d, J=8 Hz, 1H); Ret. time=2.54 min., m/z=323.0.

reactant | 3-(2,4-Dimethoxy-benzyloxy)-1H-benzo[4,5]furo[3,2-d]pyrimidine-2,4-dione | COC1=C(CON2C(NC3=C(C2=O)OC2=C3C=CC=C2)=O)C=CC(=C1)OC | C19H16N2O6
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3-Hydroxy-1-(1-phenyl-ethyl)-1H-benzo[4,5]furo[3,2-d]pyrimidine-2,4-dione | ON1C(N(C2=C(C1=O)OC1=C2C=CC=C1)C(C)C1=CC=CC=C1)=O | C18H14N2O4
